### PR TITLE
[Merged by Bors] - feat(RingTheory): Chevalley's theorem

### PR DESCRIPTION
**Pull request by erdOne**
Also shows that flat ring homomorphisms of finite presentation are open maps on the prime spectrum

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/FinitePresentation.lean [hunk 1]
```diff
@@ -389,6 +389,12 @@ variable {A B C : Type*} [CommRing A] [CommRing B] [CommRing C]
 def FinitePresentation (f : A →+* B) : Prop :=
   @Algebra.FinitePresentation A B _ _ f.toAlgebra
 
+lemma finitePresentation_algebraMap [Algebra A B] :
+    (algebraMap A B).FinitePresentation ↔ Algebra.FinitePresentation A B := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/FinitePresentation.lean:393]: simp?

File: Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean [hunk 2]
```diff
@@ -102,4 +99,72 @@ lemma toSet_map (f : R →+* S) (s : ConstructibleSetData R) :
 /-- The degree bound on a constructible set for Chevalley's theorem for the inclusion `R ↪ R[X]`. -/
 def degBound (S : ConstructibleSetData R[X]) : ℕ := S.sup fun C ↦ ∑ i, (C.g i).degree.succ
 
-end PrimeSpectrum.ConstructibleSetData
+lemma isConstructible_toSet (S : ConstructibleSetData R) :
+    IsConstructible S.toSet := by
+  refine IsConstructible.biUnion S.finite_toSet fun _ _ ↦ .sdiff ?_ ?_
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean:104]:
```suggestion
  refine .biUnion S.finite_toSet fun _ _ ↦ .sdiff ?_ ?_
```

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 3]
```diff
@@ -891,6 +886,30 @@ lemma exists_idempotent_basicOpen_eq_of_isClopen {s : Set (PrimeSpectrum R)}
...
+lemma isRetrocompact_iff {U : Set (PrimeSpectrum R)} (hU : IsOpen U) :
+    IsRetrocompact U ↔ IsCompact U :=
+  isTopologicalBasis_basic_opens.isRetrocompact_iff_isCompact isCompact_basicOpen hU
+
+lemma isRetrocompact_zeroLocus_compl (s : Set R) (hs : s.Finite) :
+    IsRetrocompact (zeroLocus s)ᶜ :=
+  (isRetrocompact_iff (isClosed_zeroLocus _).isOpen_compl).mpr
+    (isCompact_isOpen_iff.mpr ⟨hs.toFinset, by simp⟩).1
+
+lemma isRetrocompact_zeroLocus_compl_of_fg (I : Ideal R) (hI : I.FG) :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:899]:
```suggestion
lemma isRetrocompact_zeroLocus_compl_of_fg {I : Ideal R} (hI : I.FG) :
```

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 4]
```diff
@@ -891,6 +886,30 @@ lemma exists_idempotent_basicOpen_eq_of_isClopen {s : Set (PrimeSpectrum R)}
...
+    IsRetrocompact (zeroLocus (I : Set R))ᶜ := by
+  obtain ⟨s, rfl⟩ := hI
+  rw [zeroLocus_span]
+  exact isRetrocompact_zeroLocus_compl _ s.finite_toSet
+
+lemma isRetrocompact_basicOpen (f : R) :
+    IsRetrocompact (basicOpen f : Set (PrimeSpectrum R)) := by
+  simpa using isRetrocompact_zeroLocus_compl _ (Set.finite_singleton f)
+
+lemma isConstructible_basicOpen (f : R) :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:909]: I would suggest
```suggestion
lemma isRetrocompact_basicOpen {f : R} :
    IsRetrocompact (basicOpen f : Set (PrimeSpectrum R)) := by
  simpa using isRetrocompact_zeroLocus_compl _ (Set.finite_singleton f)

lemma isConstructible_basicOpen {f : R} :
```

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 5]
```diff
@@ -891,6 +886,30 @@ lemma exists_idempotent_basicOpen_eq_of_isClopen {s : Set (PrimeSpectrum R)}
 @[deprecated (since := "2024-11-11")]
 alias exists_idempotent_basicOpen_eq_of_is_clopen := exists_idempotent_basicOpen_eq_of_isClopen
 
+-- TODO: Abstract out this lemma to spectral spaces
+lemma isRetrocompact_iff {U : Set (PrimeSpectrum R)} (hU : IsOpen U) :
+    IsRetrocompact U ↔ IsCompact U :=
+  isTopologicalBasis_basic_opens.isRetrocompact_iff_isCompact isCompact_basicOpen hU
+
+lemma isRetrocompact_zeroLocus_compl (s : Set R) (hs : s.Finite) :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:894]:
```suggestion
lemma isRetrocompact_zeroLocus_compl {s : Set R} (hs : s.Finite) :
```

**Review by YaelDillies — APPROVED** [review]
Looks very good. I'll let an algebraic geometer have the final say.

maintainer delegate?

File: Mathlib/RingTheory/Spectrum/Prime/Chevalley.lean [hunk 6]
```diff
@@ -0,0 +1,65 @@
...
+Authors: Andrew Yang
+-/
+import Mathlib.RingTheory.Ideal.GoingDown
+import Mathlib.RingTheory.Spectrum.Prime.ChevalleyComplexity
+
+/-!
+# Chevalley's theorem
+
+In this file we provide the usual (algebraic) version of Chevalley's theorem.
+For the proof see `Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplex.lean`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Spectrum/Prime/Chevalley.lean:13]:
```suggestion
For the proof see `Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean`.
```

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/RingTheory/Spectrum/Prime/RingHom.lean [hunk 7]
```diff
@@ -138,6 +138,49 @@ theorem sigmaToPi_not_surjective_of_infinite : ¬ (sigmaToPi R).Surjective := fu
   have ⟨_, _, nmem⟩ := exists_maximal_nmem_range_sigmaToPi_of_infinite R
   (Set.range_eq_univ.mpr surj ▸ nmem) ⟨⟩
 
+lemma exists_comap_evalRingHom_eq
+    {ι : Type*} {R : ι → Type*} [∀ i, CommRing (R i)] [Finite ι]
+    (p : PrimeSpectrum (Π i, R i)) :
+    ∃ (i : ι) (q : PrimeSpectrum (R i)), (Pi.evalRingHom R i).specComap q = p := by
+  classical
```
Comment (chrisflav) [inline Mathlib/RingTheory/Spectrum/Prime/RingHom.lean:145]: Maybe this could be obtained from [PrimeSpectrum.primeSpectrumProd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Spectrum/Prime/Basic.html#PrimeSpectrum.primeSpectrumProd) by a `pi` induction principle for rings (similar to the one I proposed in #22918 for modules)?

Comment (erdOne) [reply Mathlib/RingTheory/Spectrum/Prime/RingHom.lean:145]: Yeah perhaps. But you would need to show how `Pi.evalRingHom R i` behaves under these things and it might not be easier.

**Comment by erdOne** [comment]
bors merge
